US05256793
Preparation of 1-(4-Chloro-2-Fluorophenyl)-4,5-Dihydro-3-Methyl-1,2,4-Triazol-5(1H)-One
A stirring solution of 80.3 grams (0.500 mole) of 4-chloro-2-fluorophenylhydrazine in 180 ml of tert-butanol/water (88/12) is cooled to 0 to 5° C., and a solution of 23.4 grams (0.525 mole) of acetaldehyde in 54 grams of tert-butanol/water (88/12) is added dropwise during a 20 minute period. Upon completion of addition, the reaction mixture is stirred for five minutes, and a slurry of 39.8 grams (91.5% pure--0.560 mole--12% molar excess) of sodium cyanate in 90 grams of water is added in one portion. Additional water is used to wash any of the remaining slurry of sodium cyanate from its container into the reaction mixture. The reaction mixture is cooled to 0 to 5° C., and 39.3 grams (0.655 mole--5% equivalent excess, based on equivalents of sodium cyanate and its sodium carbonate impurity) of acetic acid is added dropwise during a 15 minute period. Upon completion of addition, the reaction mixture is stirred for about two hours during which time it is allowed to warm to about 20° C. Upon completion of the two hour stirring time, the reaction mixture is cooled to 10° C., and 321 grams (0.537 mole) of a 12.4% aqueous solution of sodium hypochlorite is added dropwise during a 40 minute period. Upon completion of addition, the reaction mixture is stirred for an additional 40 minutes. The tert-butanol/water medium is then distilled from the reaction mixture by slowly heating the reaction mixture to about 100° C. Upon completion of the distillation, the pot residue is washed with water and dried, yielding 1-(4-chloro-2-fluorophenyl)-4,5-dihydro-3-methyl,-1,2,4-triazol-5(1H)-one.

reactant | 4-chloro-2-fluorophenylhydrazine | 0.500 mole, 80.3 grams | ClC1=CC(=C(C=C1)NN)F | C6H6ClFN2
reactant | acetaldehyde | 0.525 mole, 23.4 grams | C(C)=O | C2H4O
reactant | sodium cyanate | 39.8 grams | [O-]C#N.[Na+]
reactant | 1,2,4-triazol-5(1H)-one | N1NC=NC1=O | C2H3N3O
solvent | tert-butanol water | 180 ml | C(C)(C)(C)O.O
solvent | tert-butanol water | 54 grams | C(C)(C)(C)O.O
solvent | water | 90 grams | O | H2O
product | 1-(4-Chloro-2-Fluorophenyl)-4,5-Dihydro-3-Methyl-1,2,4-Triazol-5(1H)-One | ClC1=CC(=C(C=C1)N1N=C(NC1=O)C)F | C9H7ClFN3O
